US07816391B2
Hydrogen chloride 4M in Dioxan (100 mL, 399.60 mmol) was added to 4-Hydrazinobenzoic acid (15.2 g, 99.90 mmol) in MeOH (200 mL). The resulting suspension was stirred at 90° C. for 5 hours. After cooling to 20° C. the precipitate was collected by filtration, washed with Et2O (100 mL) and dried under vacuum to afford 2-(4-(methoxycarbonyl)phenyl)hydrazinium chloride (16.50 g, 82%) as a cream crystalline solid.

reactant | Hydrogen chloride | 4M | Cl | ClH
reactant | Dioxan | 399.60 mmol, 100 mL | O1CCOCC1 | C4H8O2
reactant | 4-Hydrazinobenzoic acid | 99.90 mmol, 15.2 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
solvent | MeOH | 200 mL | CO | CH4O
product | 2-(4-(methoxycarbonyl)phenyl)hydrazinium chloride | 16.50 g, 82% | [Cl-].COC(=O)C1=CC=C(C=C1)N[NH3+] | InChI=1S/C8H10N2O2.ClH/c1-12-8(11)6-2-4-7(10-9)5-3-6;/h2-5,10H,9H2,1H3;1H
